US09145380B2
2-(2-(6-(3,3-Dimethylbut-1-ynyl)pyridin-3-yl)ethylsulfonamido)benzenesulfonamide
The title compound was synthesized as described for Example 179 a) in 34% yield, starting from 2-(2-(6-bromopyridin-3-yl)ethylsulfonamido)benzenesulfonamide and 3,3-dimethyl-1-butyne. Purification by column chromatography, using 10 to 60% ethyl acetate in heptane as the eluent.

reactant | 2-(2-(6-bromopyridin-3-yl)ethylsulfonamido)benzenesulfonamide | BrC1=CC=C(C=N1)CCS(=O)(=O)NC1=C(C=CC=C1)S(=O)(=O)N | C13H14BrN3O4S2
reactant | 3,3-dimethyl-1-butyne | CC(C#C)(C)C | C6H10
product | 2-(2-(6-(3,3-Dimethylbut-1-ynyl)pyridin-3-yl)ethylsulfonamido)benzenesulfonamide | 34% yield | CC(C#CC1=CC=C(C=N1)CCS(=O)(=O)NC1=C(C=CC=C1)S(=O)(=O)N)(C)C | C19H23N3O4S2
